US06030967
8-Cyanomethyl-9-(4-fluorophenyl)-naphtho[1,2-d]-1,3-dioxole-7-carboxylic acid
To a mixture of acetone (5 ml) and water (2 ml) was dissolved 9-(4-fluorophenyl)-7-hydroxymethylnaphtho[1,2-d]-1,3-dioxole-8-acetonitrile (200 mg), and potassium permanganate (400 mg) was gradually added thereto. The mixture was stirred for 1 hour at room temperature and potassium permanganate (200 mg) was gradually added thereto. The insoluble substances were filtered off and 1N hydrochloric acid was added to the filtrate. The resultant precipitates were collected by suction and recrystallized from methanol to give the entitled compound (23 mg) as colorless crystals.

reactant | acetone | 5 ml | CC(=O)C | C3H6O
reactant | 9-(4-fluorophenyl)-7-hydroxymethylnaphtho[1,2-d]-1,3-dioxole-8-acetonitrile | 200 mg | FC1=CC=C(C=C1)C=1C(=C(C=C2C=CC3=C(OCO3)C12)CO)CC#N | C20H14FNO3
reactant | potassium permanganate | 400 mg | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | potassium permanganate | 200 mg | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | water | 2 ml | O | H2O
product | 8-Cyanomethyl-9-(4-fluorophenyl)-naphtho[1,2-d]-1,3-dioxole-7-carboxylic acid | 23 mg | C(#N)CC1=C(C=C2C=CC3=C(OCO3)C2=C1C1=CC=C(C=C1)F)C(=O)O | C20H12FNO4
